US04957739
6. Large Scale Preparation of Membrane-Associated Leukotoxin and Vaccine Compositions.
The membrane pellet was resuspended in 40 ml 0.25 M sucrose, 33 mM Tris, pH 7.8, 1 mM EDTA and repelleted 2 hours at 60,000 rpm. The washed pellet was resuspended in 2.0 ml 25% sucrose, 5 mM EDTA, pH 7.5 and overlayed onto a gradient composed of steps with the following sucrose concentrations and volumes: 55%, 5.0 ml; 50%, 6.3 ml; 45%, 6.3 ml; 40%, 6.3 ml; 35%, 6.3 ml; 30%, 6.3 ml; 25%, 6.3 ml. Gradients were centrifuged 24 hours at 35,000 rpm in a SW 41 rotor at 4° C. and then fractioned into 0.8 ml; fractions. Each fraction was diluted with 1 mM EDTA, pH 7.5, to a sucrose concentration of less than 10% and then concentrated by pelleting 2 hours at 65,000 rpm, 4 ° C. in a 70.1 Ti rotor. The pellets were resuspended in minimal volumes of 33 mM Tris, pH 7.8 and the entire sample of each was used for Western blot analysis. This analysis indicated that the 105 kD leukotoxin was associated with both the inner and outer membranes of E. coli.

reactant | Tris | 33 mM | C(C(CO)(CO)N)O | C4H11NO3
reactant | EDTA | 1 mM, pH 7.8 | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | EDTA | 5 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sucrose | 0.25 M, 40 ml | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | sucrose | 2.0 ml | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
product | Leukotoxin | CCCCC/C=C\CC(C(CCCCCCCC(=O)O)O)O | C18H34O4
